US07074801B1
4-[(5-Iodo-2-thienyl)sulfanyl]butane nitrile
2.3 g of thiophen-2-thiol, 3.0 g of 4-bromobutyronitrile and 5.5 g of potassium carbonate were stirred in N,N-dimethylformamide at room temperature to give 3.4 g of 4-(2-thienylsulfanyl)butane nitrile. 3.4 g of 4-(2-thienylsulfanyl)butane nitrile was reacted with 5.4 g of N-iodosuccinimide in N,N-dimethylformamide, whereby 5.5 g of the title compound was obtained as a pale yellow oil.

reactant | 4-(2-thienylsulfanyl)butane nitrile | 3.4 g | S1C(=CC=C1)SCCCC#N | C8H9NS2
reactant | N-iodosuccinimide | 5.4 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[(5-Iodo-2-thienyl)sulfanyl]butane nitrile | 5.5 g | IC1=CC=C(S1)SCCCC#N | C8H8INS2
